Simple RC Circuit
*SPICE Netlist generated by Advanced Sim server on 11/06/2002 4:48:31 PM

*Schematic Netlist:
C1 X 0 50P
C2 OUT 0 50P
R1 IN X 100K
R2 X OUT 800K
RL 0 OUT 500K
V1 IN 0 DC 0 PWL(0 5 5U 5 12U 0 50U 5 60U 5) AC 1 0

.SAVE 0 IN OUT X V1#branch @V1[z] @C1[i] @C2[i] @R1[i] @R2[i] @RL[i] @C1[p]
.SAVE @C2[p] @R1[p] @R2[p] @RL[p] @V1[p]

*PLOT TRAN -1 1 A=IN A=OUT
*PLOT OP -1 1 A=IN A=OUT

*Selected Circuit Analyses:
.TRAN 5E-7 0.0001 0 1E-6
.OP

.END
